US09162992B2
N-(5,8,11-Trioxa-2,14,16,18,19-pentaazabicyclo[13.3.1]nonadeca-1(18),15(19),16(17)-trien-17-yl)-N,O-dimethylhydroxylamine (CXVII) (700 mg, 2.1 mmol) was dissolved in H2O (10 mL) and 0.5 M aqueous HCl solution (4.3 mL), and the resultant solution was lyophilized to yield N-(5,8,11-trioxa-2,14,16,18,19-pentaazabicyclo[13.3.1]nonadeca-1(18),15(19),16(17)-trien-17-yl)-N,O-dimethylhydroxylamine hydrochloride (CXVIII) (750) mg as a colorless oil. LCMS: (ESI) m/z=329 (M+H)+. 1H NMR (500 MHz, DMSO) δ (ppm) 11.50-12.60 (br, 1H), 8.61 (s, 2H), 3.77 (s, 3H), 3.30-3.62 (m, 16H), 3.30 (s, 3H).

reactant | N-(5,8,11-Trioxa-2,14,16,18,19-pentaazabicyclo[13.3.1]nonadeca-1(18),15(19),16(17)-trien-17-yl)-N,O-dimethylhydroxylamine | 2.1 mmol, 700 mg | C=12NCCOCCOCCOCCNC(N=C(N1)N(OC)C)=N2 | C13H24N6O4
reactant | HCl | 0.5 M, 4.3 mL | Cl | ClH
solvent | H2O | 10 mL | O | H2O
product | N-(5,8,11-trioxa-2,14,16,18,19-pentaazabicyclo[13.3.1]nonadeca-1(18),15(19),16(17)-trien-17-yl)-N,O-dimethylhydroxylamine hydrochloride | Cl.C=12NCCOCCOCCOCCNC(N=C(N1)N(OC)C)=N2 | InChI=1S/C13H24N6O4.ClH/c1-19(20-2)13-17-11-14-3-5-21-7-9-23-10-8-22-6-4-15-12(16-11)18-13;/h3-10H2,1-2H3,(H2,14,15,16,17,18);1H
